US07763608B2
To a suspension of ethyl 2-mercapto-1H-imidazole-4-carboxylate (4.00 g, 23.3 mmol) in acetone (30 mL) at room temperature, MeI (6 mL, 96.3 mmol) was added. During first 10 min of stirring, the suspension became clear, then it turned cloudy as product began to precipitate out. After being stirred at room temperature overnight, the precipitate was collected, dried on vacuum to give ethyl 2-(methylthio)-1H-imidazole-4-carboxylate (3.47 g).

reactant | ethyl 2-mercapto-1H-imidazole-4-carboxylate | 23.3 mmol, 4.00 g | SC=1NC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | MeI | 96.3 mmol, 6 mL | CI | CH3I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | ethyl 2-(methylthio)-1H-imidazole-4-carboxylate | 3.47 g | CSC=1NC=C(N1)C(=O)OCC | C7H10N2O2S
